US09210927B2
Preparation of 5-Vinyl-2,3-dihydro-1H-inden-1-one (BI1)
To a stirred solution of 5-bromo-2,3-dihydro-1H-inden-1-one (5 g, 23.7 mmol) in toluene were added vinylboronic anhydride pyridine complex (8.55 g, 35.54 mmol), Pd(PPh3)4 (0.1 g, 0.094 mmol), K2CO3 (22.88 g, 165.83 mmol). The resultant reaction mixture was heated at reflux for 16 h. The reaction mixture was cooled to 25° C. and filtered, and the filtrate was concentrated under reduced pressure. The residue was diluted with EtOAc and washed with H2O and brine. The combined organic extracts were dried over anhydrous Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography (SiO2, 5% EtOAc in petroleum ether) afforded the title compound as a solid (1.8 g, 48%): 1H NMR (400 MHz, CDCl3) δ 7.74 (d, J=7.2 Hz, 1H), 7.49 (br s, 1H), 7.44 (d, J=7.2 Hz, 1H), 6.82 (m, 1H), 5.90 (d, J=7.4 Hz, 1H), 5.42 (d, J=6.4 Hz, 1H), 3.20 (m, 2H), 2.70 (m, 2H); ESIMS m/z 159.06 ([M+H]−).

reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 23.7 mmol, 5 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | K2CO3 | 165.83 mmol, 22.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.094 mmol, 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Vinyl-2,3-dihydro-1H-inden-1-one | 1.8 g, 48% | C(=C)C=1C=C2CCC(C2=CC1)=O | C11H10O
